US05219873
Stage A: 1-benzyl-3-acetyl-pyridine-oxime bromide.
7.4 g of 3-acetylpyridine oxime is dissolved in 80 cm3 of ethanol, 8 cm3 of benzyl bromide is added to it, with heating at reflux for 6 hours. The solvent is eliminated followed by crystallization from an ether/methanol mixture. 14.21 g of the expected product is obtained. m.p.=200°-201° C.

reactant | 3-acetylpyridine oxime | 7.4 g | C(C)(C=1C=NC=CC1)=NO | C7H8N2O
reactant | benzyl bromide | 8 cm3 | C(C1=CC=CC=C1)Br | C7H7Br
solvent | ethanol | 80 cm3 | C(C)O | C2H6O
product | 1-benzyl-3-acetyl-pyridine-oxime bromide | 14.21 g | [Br-].C(C1=CC=CC=C1)N1CC(=CC=C1)C(C)=NO | InChI=1S/C14H16N2O.BrH/c1-12(15-17)14-8-5-9-16(11-14)10-13-6-3-2-4-7-13;/h2-9,17H,10-11H2,1H3;1H/p-1
